US07585881B2
3-[3-Cyclopropyl-2-(2,6-dichloro-pyridin-4-yl)-3H-imidazol-4-yl]-2-methyl-acrylic acid ethyl ester
3-cyclopropyl-2-(2,6-dichloro-pyridin-4-yl)-3H-imidazole-4-carbaldehyde (1.48 g, 5.25 mmol), triethyl-2-phosphonopropionate (1.46 ml, 6.83 mmol) and DBU(1.02 ml, 6.83 mmol) were dissolved in acetonitrile (20 ml). After stirring at 78° C. o.n. the reaction mixture was cooled to r.t, diluted with water and extracted with DCM. The combined organic phase was dried (Na2SO4), filtered and concentrated in-vacuo. The crude was purified on silica gel using 6% EA in DCM, and the isolated residue was triturated with hex. to isolate the title compound (1.66 g, 86%). 1H-NMR: 7.86 (m, 1H), 7.75 (d, 2H), 7.43 (s, 1H), 4.34 (q, 2H), 3.45 (m, 1H), 2.19 (s, 3H), 1.39 (t, 3H), 1.29 (m, 2H), 0.78 (m, 2H).

reactant | 3-cyclopropyl-2-(2,6-dichloro-pyridin-4-yl)-3H-imidazole-4-carbaldehyde | 5.25 mmol, 1.48 g | C1(CC1)N1C(=NC=C1C=O)C1=CC(=NC(=C1)Cl)Cl | C12H9Cl2N3O
reactant | triethyl-2-phosphonopropionate | 6.83 mmol, 1.46 ml | C(C)C(C(C(=O)[O-])P(=O)(O)O)(CC)CC
reactant | DBU | 6.83 mmol, 1.02 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-[3-Cyclopropyl-2-(2,6-dichloro-pyridin-4-yl)-3H-imidazol-4-yl]-2-methyl-acrylic acid ethyl ester | 1.66 g, 86% | C(C)OC(C(=CC=1N(C(=NC1)C1=CC(=NC(=C1)Cl)Cl)C1CC1)C)=O | C17H17Cl2N3O2
